US04183949
A suspension of 12.7 g (60 mmols) of 3-chloro-4-trifluoromethoxyaniline and 15.15 g (60 mmols) of 1-chloro-2,4-dinitronaphthalene in 150 ml of water was heated to the boil. 5.6 g (67 mmols) of sodium bicarbonate were introduced in the course of 30 minutes and heating was continued for 2 hours under reflux. After the mixture had cooled to 20° C., the product was filtered off. 24 g of 1-(3-chloro-4-trifluoromethoxyphenylamino)-2,4-dinitronaphthalene of melting point 140° C. were obtained; after recrystallization from ethanol, 17.4 g of melting point 159° C. were obtained.

reactant | 3-chloro-4-trifluoromethoxyaniline | 60 mmols, 12.7 g | ClC=1C=C(N)C=CC1OC(F)(F)F | C7H5ClF3NO
reactant | 1-chloro-2,4-dinitronaphthalene | 60 mmols, 15.15 g | ClC1=C(C=C(C2=CC=CC=C12)[N+](=O)[O-])[N+](=O)[O-] | C10H5ClN2O4
reactant | sodium bicarbonate | 67 mmols, 5.6 g | C([O-])(O)=O.[Na+]
solvent | water | 150 ml | O | H2O
product | 1-(3-chloro-4-trifluoromethoxyphenylamino)-2,4-dinitronaphthalene | 24 g | ClC=1C=C(C=CC1OC(F)(F)F)NC1=C(C=C(C2=CC=CC=C12)[N+](=O)[O-])[N+](=O)[O-] | C17H9ClF3N3O5
